US04547501
(c) Preparation of 4-chloro-1-ethyl-7-methoxy-[1,2,4]triazolo[4,3-a]-quinoxaline
In a flame-dried reaction flask under a dry nitrogen atmosphere, there were placed 1.87 g. (0.0076 mole) of 1-ethyl-4-hydroxy-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline and 25 ml. of phosphorus oxychloride together with 1.8 ml. of tri-n-propylamine. The reaction mixture was then refluxed overnight for approximately 16 hours and finally cooled to room temperature prior to being slowly poured over ice/water. The resulting aqueous mixture was then stirred at room temperature for 30 minutes and filtered, and the solid product so obtained was subsequently washed with cold water and then dissolved in chloroform. The latter organic solution was thereafter washed with saturated brine and dried over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there was finally obtained a yellow solid product which was triturated with diethyl ether and filtered to ultimately afford 1.6 g. (80%) of pure 4-chloro-1-ethyl-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 173°-175° C. Mass Spectrum: m/e, 262 (P); m/e, 264 (P+2); m/e, 261 (P-1).

reactant | 1-ethyl-4-hydroxy-7-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.0076 mole | C(C)C1=NN=C2N1C1=CC=C(C=C1N=C2O)OC | C12H12N4O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tri-n-propylamine | C(CC)N(CCC)CCC | C9H21N
product | 4-chloro-1-ethyl-7-methoxy-[1,2,4]triazolo[4,3-a]-quinoxaline | ClC=1C=2N(C3=CC=C(C=C3N1)OC)C(=NN2)CC | C12H11ClN4O
